US05424329
5-Methoxy-l-methyl-3-(methylthio)-1H-indole-2-carboxylic acid
A suspension of methyl 5-methoxy-1-methyl-3-(methylthio)-1H-indole-2-carboxylate (3.2 g, 12 mmol) in 65 mL of methanol is treated with a solution of potassium hydroxide (2.5 g, 45 mmol) in 25 mL of water. The mixture is stirred at reflux for 2 hours, then cooled and added to 400 g of ice and water. After washing with dichloromethane, the aqueous layer is stirred with celite filter-aid and filtered. The filtrate is acidified with 4.0N HCl and the precipitated solid is filtered and washed with 10% methanol-water to yield 2.6 g (87%) of product. A sample recrystallized from hexane-ethyl acetate has mp 165° C.-dec.

reactant | methyl 5-methoxy-1-methyl-3-(methylthio)-1H-indole-2-carboxylate | 12 mmol, 3.2 g | COC=1C=C2C(=C(N(C2=CC1)C)C(=O)OC)SC | C13H15NO3S
reactant | potassium hydroxide | 45 mmol, 2.5 g | [OH-].[K+]
solvent | methanol | 65 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 5-Methoxy-l-methyl-3-(methylthio)-1H-indole-2-carboxylic acid | 2.6 g, 87% | COC=1C=C2C(=C(N(C2=CC1)C)C(=O)O)SC | C12H13NO3S
